US09284331B2
4-(1-methyl-3,4-dihydroisoquinolin-5-yl)morpholine
A flask under Ar was charged with 5-iodo-1-methyl-3,4-dihydroisoquinoline (8.0 g, 29.5 mmol), morpholine (3.1 g, 35.4 mmol) and Cs2CO3 (13.5 g, 41.3 mmol) and a mixture of Pd(OAc)2 (0.33 g, 1.48 mmol) and BINAP (0.92 g, 1.48 mmol) in toluene (150 mL) was added. The reaction was stirred at RT for 5 min and then heated to reflux for 24 h. The reaction was allowed to cool to RT, and then filtered over celite. The filtrate was concentrated in vacuo and the crude product was purified by flash chromatography (SiO2, DCM to DCM/MeOH 9:1) to provide the title compound (3.05 g). UPLC-MS: MS 231.1 (M+H+); UPLC rt 0.40 min.

reactant | 5-iodo-1-methyl-3,4-dihydroisoquinoline | 29.5 mmol, 8.0 g | IC1=C2CCN=C(C2=CC=C1)C | C10H10IN
reactant | morpholine | 35.4 mmol, 3.1 g | N1CCOCC1 | C4H9NO
reactant | Cs2CO3 | 41.3 mmol, 13.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | 1.48 mmol, 0.92 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 1.48 mmol, 0.33 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(1-methyl-3,4-dihydroisoquinolin-5-yl)morpholine | 3.05 g | CC1=NCCC2=C(C=CC=C12)N1CCOCC1 | C14H18N2O
